US07935722B2
N-(6,7,8,9-Tetrahydro-5H-1,3-dioxa-9-aza-cyclopenta[b]fluoren-6-yl)-isobutyramide
Add N-(4-oxo-cyclohexyl)-isobutyramide (974 mg, 5.32 mmol) a suspension of benzo[1,3]dioxol-5-yl-hydrazine hydrochloride salt (Clemo, G. R.; Weiss, J. J. Chem. Soc. (1945), 702.) (1.00 g, 5.32 mmol) to water (7 mL) and concentrated hydrochloric acid (3 mL). Heat the reaction to 90° C. for 12 h and cool to ambient temperature. Collect the resultant solid by vacuum filtration, rinse with water and place under high vacuum for 12 h to afford the titled compound (1.20 g, 75%) as a dark brown solid. m.p.=198-200° C.; 1H NMR (300 MHz, CDCl3): δ 7.77 (br s, 1H), 6.81 (s, 1H), 6.78 (s, 1), 5.91 (s, 2H), 5.57 (br s, 1H), 4.40 (br s, 1H), 3.00 (dd, J=15.4, 5.1 Hz, 1H), 2.80-2.69 (m, 2H), 2.50 (dd, J=15.4, 6.5 Hz, 11H), 2.30 (septet, J=6.9 Hz, 1H), 2.05-1.96 (m, 2H), 1.14 (d, J=6.9 Hz, 6H).

reactant | N-(4-oxo-cyclohexyl)-isobutyramide | 5.32 mmol, 974 mg | O=C1CCC(CC1)NC(C(C)C)=O | C10H17NO2
reactant | benzo[1,3]dioxol-5-yl-hydrazine hydrochloride salt | 5.32 mmol, 1.00 g | Cl.O1COC2=C1C=CC(=C2)NN
reactant | hydrochloric acid | 3 mL | Cl | ClH
solvent | water | 7 mL | O | H2O
product | N-(6,7,8,9-Tetrahydro-5H-1,3-dioxa-9-aza-cyclopenta[b]fluoren-6-yl)-isobutyramide | 1.20 g, 75% | O1COC=2C1=CC=1NC=3CCC(CC3C1C2)NC(C(C)C)=O | C17H20N2O3
